US07244851B2
2-amino-5-chloro-3-phenylthiophene
2-(N-Boc-amino)-5-chloro-3-phenyl-thiophene (66 mg, 0.21 mmol) was treated with trifluoroacetic acid (1 ml) in dichloromethane (3 ml) at ambient temperature for 1 hr. The mixture was diluted with DMF (1 ml) and the more volatile materials removed under reduced pressure. The resulting DMF solution of 2-amino-5-chloro-3-phenylthiophene was used in the subsequent coupling step without purification.

reactant | 2-(N-Boc-amino)-5-chloro-3-phenyl-thiophene | 0.21 mmol, 66 mg | C(=O)(OC(C)(C)C)NC=1SC(=CC1C1=CC=CC=C1)Cl | C15H16ClNO2S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-amino-5-chloro-3-phenylthiophene | NC=1SC(=CC1C1=CC=CC=C1)Cl | C10H8ClNS
